US05665768
[F] N-[3-[5-(4-Fluorophenylthio)-2-furyl]-2-cyclopenten-1-yl]-N-hydroxyurea
To a stirred solution of N-[3-[5-(4-fluorophenylthio)-2-furyl]-2-cyclopenten-1-yl]-N-hydroxylamine (1.35 g; 4.64 mM) in THF (13 ml) was added TMSNCO (0.755 g; 5.56 mM) at room temperature under N2. After stirring for 1 hr, EtOH (20 ml) was added. Volatiles were removed, and the resulting residue was recrystallized from ethyl acetate-EtOH (20 ml-120 ml) to provide 0.5 g of the title compound as a colorless solid.

reactant | N-[3-[5-(4-fluorophenylthio)-2-furyl]-2-cyclopenten-1-yl]-N-hydroxylamine | 4.64 mM, 1.35 g | FC1=CC=C(C=C1)SC1=CC=C(O1)C1=CC(CC1)NO | C15H14FNO2S
reactant | TMSNCO | 5.56 mM, 0.755 g | [Si](C)(C)(C)N=C=O | C4H9NOSi
reactant | EtOH | 20 ml | CCO | C2H6O
solvent | THF | 13 ml | C1CCOC1 | C4H8O
product | N-[3-[5-(4-Fluorophenylthio)-2-furyl]-2-cyclopenten-1-yl]-N-hydroxyurea | 0.5 g | FC1=CC=C(C=C1)SC1=CC=C(O1)C1=CC(CC1)N(C(=O)N)O | C16H15FN2O3S
